US05834471
N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]-5-(4-pyridyl)thiophene-2-carboxamide
5-bromo-N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]thiophene-2-carboxamide (0.31 g;0.76 mmol) was stirred with 4-pyridylboronic acid (0.093 g;0.76 mmol), tetrakis(triphenylphosphine)palladium(0) (0.045 g;5 mol %) and anhydrous sodium carbonate (0.089 g;0.84 mmol) in water (14 ml) and DME (14 ml) and the whole heated at reflux under Ar (18 hours). The reaction mixture was poured into 10% Na2CO3 (aq) (30 ml) and extracted into CHCl3. The organic extracts were combined, dried over Na2 SO4, filtered and the filtrate evaporated in vacuo to a brown gum. The gum was purified by flash silica-gel chromatography and eluted with 4%MeOH/CHCl3 to yield a yellow, semi-solid residue which was triturated with acetone/Et2O. The solid that formed was collected by filtration and dried in vacuo to yield the tide compound as a yellow solid (0.2 g;65%), mp=191-194° C.

reactant | 5-bromo-N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]thiophene-2-carboxamide | 0.76 mmol, 0.31 g | BrC1=CC=C(S1)C(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C17H20BrN3O2S
reactant | 4-pyridylboronic acid | 0.76 mmol, 0.093 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 0.84 mmol, 0.089 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Na2CO3 | 30 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 14 ml | O | H2O
solvent | DME | 14 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]-5-(4-pyridyl)thiophene-2-carboxamide | 0.2 g, 65% | COC1=C(C=C(C=C1)NC(=O)C=1SC(=CC1)C1=CC=NC=C1)N1CCN(CC1)C | C22H24N4O2S
